***********************************************************
*
* BZV55-B3V3
*
* Nexperia
*
* Voltage regulator diode
* VFmax = 0,9V    @ IF = 10mA
* IRmax = 5µA     @ VR = 1V
* VZmax = 3,37V   @ IZ = 5mA
* IZSM  = 6A      @ tp = 100µs
*
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOD80C
*
* Package Pin 1: Cathode
* Package Pin 2: Anode
*
*
* Extraction date (week/year): 41/2020
* Simulator: SPICE3
*
***********************************************************
*
* The resistor R1, the diode D2 and VZ  
* do not reflect physical devices 
* but improve only modeling in the 
* reverse mode of operation.
*
.subckt BZV55-B3V3 1 2
R1 1 2 6E+07
D1 1 2
+ DIODE1
D2 3 1
+ DIODE2
VZ 2 3 0.2
*
.model DIODE1 D
+ IS = 3E-11
+ N = 1.5
+ BV = 3.6
+ IBV = 1E-06
+ RS = 0.26
+ CJO = 3.087E-10
+ VJ = 0.6
+ M = 0.3
+ FC = 0.5
+ TT = 0
+ Eg = 1.1
+ XTI = 3
.MODEL DIODE2 D
+ IS = 2E-08
+ N = 9.2
+ RS = 20
.ends
*
